US07667041B2
Synthesis of (E)-3-[3-cyano-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid
To a DMF (10 mL) solution of 5-bromo-2-(4-methyl-1H-imidazol-1-yl)benzonitrile (700 mg) and acrylic acid ethyl ester (362 mg), palladium acetate (31 mg), tri-ortho-tolylphosphine (85 mg) and TEA (2 mL) were added, and the reaction solution was agitated at 80° C. under nitrogen-atmosphere overnight. The reaction mixture was concentrated under reduced pressure, water and ethyl acetate were added to the residue, and the organic layer was partitioned. The organic layer was washed with a saturated saline solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent:hexane-ethyl acetate system), fractions of the object substance were combined, and concentrated under reduced pressure. The obtained substance was dissolved by SN sodium hydroxide solution (5 mL) and ethanol (30 mL), and the reaction mixture was agitated at 60° C. for 3 hours. The reaction mixture was concentrated under reduced pressure, water was added to the residue, and was made neutral with 5N hydrochloric acid. Insoluble matter consequently deposited was separated by filtering, washed with ether, and 498 mg of the title compound was obtained.

reactant | 5-bromo-2-(4-methyl-1H-imidazol-1-yl)benzonitrile | 700 mg | BrC=1C=CC(=C(C#N)C1)N1C=NC(=C1)C | C11H8BrN3
reactant | acrylic acid ethyl ester | 362 mg | C(C)OC(C=C)=O | C5H8O2
reactant | tri-ortho-tolylphosphine | 85 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
catalyst | palladium acetate | 31 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (E)-3-[3-cyano-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid | 498 mg | C(#N)C=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)O | C14H11N3O2
